US04175203
Preparation of 4-(4-Acetyl-8-acetoxytridecyl)benzoic Acid
A mixture of 4-(4-acetyl-8-hydroxytridecyl)benzoic acid (9.0 g., 0.025 mole) and acetic anhydride (6.1 g., 0.06 mole) is heated at 60° C. for 18 hours. The mixture is then cooled and dissolved in 80 ml. ethyl ether. The solution is extracted with an ice-cold solution of 8 g. sodium hydroxide in 150 ml. water. The basic solution is separated and acidified with concentrated hydrochloric acid. The oily acid which separates is taken up in ether, washed with water, and dried over sodium sulfate. The ether is evaporated to leave the oily crude product.

reactant | 4-(4-acetyl-8-hydroxytridecyl)benzoic acid | 0.025 mole, 9.0 g | C(C)(=O)C(CCCC1=CC=C(C(=O)O)C=C1)CCCC(CCCCC)O | C22H34O4
reactant | acetic anhydride | 0.06 mole, 6.1 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-(4-Acetyl-8-acetoxytridecyl)benzoic Acid | C(C)(=O)C(CCCC1=CC=C(C(=O)O)C=C1)CCCC(CCCCC)OC(C)=O | C24H36O5
